US09055743B2
2-Chloro-5,6-dihydro-1-benzothiophen-7(4H)-one
10.0 g (57.9 mmol) of 2-chloro-4,5,6,7-tetrahydro-1-benzothiophene are dissolved in acetic acid/water (247 ml/82 ml), 127 g (231 mmol) of ammonium cerium (IV) nitrate in water (50 ml) are added and the mixture is stirred at room temperature for 5 h. The reaction mixture is added to ice-water and extracted with dichloromethane. After washing with water, the organic phase is dried over sodium sulphate and concentrated under reduced pressure. This gives 5.60 g of 2-chloro-5,6-dihydro-1-benzothiophen-7(4H)-one.

reactant | 2-chloro-4,5,6,7-tetrahydro-1-benzothiophene | 57.9 mmol, 10.0 g | ClC=1SC2=C(C1)CCCC2 | C8H9ClS
reactant | ammonium cerium (IV) nitrate | 231 mmol, 127 g | [N+](=O)([O-])[O-].[Ce+4].[NH4+].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
solvent | acetic acid water | 247 ml | C(C)(=O)O.O
solvent | water | 50 ml | O | H2O
product | 2-Chloro-5,6-dihydro-1-benzothiophen-7(4H)-one | ClC=1SC2=C(C1)CCCC2=O | C8H7ClOS
